US05250548
2-Butyl-5-methoxymethyl-4-{N-[(2'-[1H-tetrazol-5yl]biphenyl-4-yl)methyl]amino}pyrimidine
2-n-Butyl-5-hydroxymethyl-4-{N-[(2-1H-tetrazol-5-yl]biphenyl-4-yl)methyl]amino}pyrimidine hydrochloride, the product of Example 2B, is converted to 2-butyl-5-bromomethyl-4-{N-[(2'-[1H-tetrazol-5-yl]biphenyl-4-yl)methyl]amino}pyrimidine by treatment with hydrogen bromide in acetic acid according to the method of A. Schellenberger and K. Winter in Z. Physiol. Chem., 322, 164 (1960). The bromomethyl intermediate is then converted to the title compound by treatment with sodium methoxide in methanol.

reactant | 2-butyl-5-bromomethyl-4-{N-[(2'-[1H-tetrazol-5-yl]biphenyl-4-yl)methyl]amino}pyrimidine | C(CCC)C1=NC=C(C(=N1)NCC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)CBr | C23H24BrN7
reactant | hydrogen bromide | Br | BrH
reactant | sodium methoxide | C[O-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | CO | CH4O
product | 2-Butyl-5-methoxymethyl-4-{N-[(2'-[1H-tetrazol-5yl]biphenyl-4-yl)methyl]amino}pyrimidine | C(CCC)C1=NC=C(C(=N1)NCC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)COC | C24H27N7O
